US06518264B2
1-[Bis-thien-2-yl)methyl]azetidin-3-one may be prepared by carrying out the operation as described in Example 73, starting with 4 g of 1-[bis(thien-2-yl)methyl]azetidin-3-ol, 2.6 cm3 of dimethyl sulfoxide, 7.7 cm3 of triethylamine, 7.7 cm3 of oxalyl chloride, and 100 cm3 of dichloromethane. The residue obtained is purified by chromatography on a silica gel column (particle size 0.04-0.06 mm, diameter 3 cm, height 30 cm) with, as eluent, a mixture of cyclohexane/ethyl acetate (1/1 by volume). The fractions obtained are evaporated to dryness under reduced pressure (2.7 Kpa). 3.2 g of 1-[bis(thien-2-yl)methyl]azetidin-3-one are obtained in the form of cream-colored crystals melting at 70° C.

reactant | azetidin-3-one | N1CC(C1)=O | C3H5NO
reactant | 1-[bis(thien-2-yl)methyl]azetidin-3-ol | 4 g | S1C(=CC=C1)C(N1CC(C1)O)C=1SC=CC1 | C12H13NOS2
reactant | dimethyl sulfoxide | 2.6 cm3 | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 7.7 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 7.7 cm3 | C(C)N(CC)CC | C6H15N
product | 1-[bis(thien-2-yl)methyl]azetidin-3-one | 3.2 g | S1C(=CC=C1)C(N1CC(C1)=O)C=1SC=CC1 | C12H11NOS2
